US06359013B1
E-4-bromostyryl 4-chlorophenyl sulfone
A solution of 4-chlorophenyl sulfonylacetic acid (0.01 mol) and 4-bromobenzaldehyde (0.01 mol) was subjected to Procedure 1. The title compound was obtained in 80% yield.

reactant | 4-chlorophenyl sulfonylacetic acid | 0.01 mol | ClC1=CC=C(C=C1)S(=O)(=O)CC(=O)O | C8H7ClO4S
reactant | 4-bromobenzaldehyde | 0.01 mol | BrC1=CC=C(C=O)C=C1 | C7H5BrO
product | E-4-bromostyryl 4-chlorophenyl sulfone | 80% yield | ClC1=CC=C(C=C1)S(=O)(=O)\C=C\C1=CC=C(C=C1)Br | C14H10BrClO2S
